US06664293B2
To a solution of 4-methylcyclohex-3-enecarboxylic acid (1.7 g) and triethylamine (1.8 ml) in tert-butanol (35 ml) was added diphenylphospholyl azide (2.6 ml), and the mixture was refluxed for 8 hours. After cooling to ambient temperature, the reaction mixture was diluted with ethyl acetate, washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was chromatographed on silica gel (150 ml) eluting with 1-3% ethyl acetate in n-hexane to give 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene (0.82 g).

reactant | 4-methylcyclohex-3-enecarboxylic acid | 1.7 g | CC1=CCC(CC1)C(=O)O | C8H12O2
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphospholyl azide | 2.6 ml | C1(=CC=CC=C1)C=1C(=C(PC1)N=[N+]=[N-])C1=CC=CC=C1 | C16H12N3P
reactant | tert-butanol | 35 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene | 0.82 g | C(C)(C)(C)OC(=O)NC1CC=C(CC1)C | C12H21NO2
